US05599813
tert-Butyl 3-methyl-6,7-dihydro-5H-thiazolo [3,2-a]pyrimidine-2-carboxylate hydrochloride
In 300 ml of anhydrous diethylether was dissolved 31.6 g of tert-butylacetyl acetate and to the mixture was added dropwise 17.6 ml of sulfuryl chloride under cooling with ice. After stirring at room temperature for 30 minutes, the reaction mixture was added to the ice-cooled 5% sodium hydrogen-carbonate aqueous solution and an organic layer was washed with water. The organic layer was separated, dreid over anhydrous magnesium sulfate and the solvent was removed under reduced pressure to yield 37.8 g as an oily residue. This residue was dissolved in 500 ml of methylethylketone and to the solution was added 18.2 g of 3,4,5,6-tetrahydro-2-pyrimidinethiol, followed by reflux under heating for 12 hours. After cooling the reaction mixture, the precipitated crystals were collected by filtration. The crystals were washed successively with diethylether and acetone and suspended in 300 ml of isopropylalcohol. The suspension was refluxed under heating for 12 hours. The solvent was removed under reduced pressure. To the residue was added diethylether and the precipitated crystals were collected by filtration. The crystals were washed with acetone to yield 43.6 g of the titled compound.

reactant | tert-butylacetyl acetate | 31.6 g | C(C)(=O)OC(CC(C)(C)C)=O | C8H14O3
reactant | sulfuryl chloride | 17.6 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sodium hydrogen-carbonate | C(O)([O-])=O.[Na+]
reactant | 3,4,5,6-tetrahydro-2-pyrimidinethiol | 18.2 g | N1=C(NCCC1)S | C4H8N2S
reactant | methylethylketone | 500 ml | CC(=O)CC | C4H8O
solvent | diethylether | 300 ml | C(C)OCC | C4H10O
product | tert-Butyl 3-methyl-6,7-dihydro-5H-thiazolo [3,2-a]pyrimidine-2-carboxylate hydrochloride | 43.6 g | Cl.CC1=C(SC=2N1CCCN2)C(=O)OC(C)(C)C | InChI=1S/C12H18N2O2S.ClH/c1-8-9(10(15)16-12(2,3)4)17-11-13-6-5-7-14(8)11;/h5-7H2,1-4H3;1H
